US07314888B1
In 7 ml of acetonitrile is dissolved 0.65 g of ethyl 3-bromo-5-formyl-1-isobutyl-1H-indole-2-carboxylate. To the solution are successively added at ambient temperature 1.56 g of sodium dihydrogen-phosphate dihydrate dissolved in 22 ml of water and 0.64 ml of 30% aqueous hydrogen peroxide. Then, 0.68 g of sodium chlorite dissolved in 20 ml of water is dropwise added thereto at 5-10° C. The mixture thus obtained is stirred at 60° C. for one hour. Ethyl acetate and water are added to the reaction mixture, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 0.37 g of 3-bromo-2-(ethoxycarbonyl)-1-isobutyl-1H-indole-5-carboxylic acid is obtained as a yellow solid product.

reactant | ethyl 3-bromo-5-formyl-1-isobutyl-1H-indole-2-carboxylate | 0.65 g | BrC1=C(N(C2=CC=C(C=C12)C=O)CC(C)C)C(=O)OCC | C16H18BrNO3
reactant | sodium dihydrogen-phosphate dihydrate | 1.56 g | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 0.68 g | Cl(=O)[O-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | water | 22 ml | O | H2O
solvent | hydrogen peroxide | 0.64 ml | OO | H2O2
solvent | water | 20 ml | O | H2O
product | 3-bromo-2-(ethoxycarbonyl)-1-isobutyl-1H-indole-5-carboxylic acid | 0.37 g | BrC1=C(N(C2=CC=C(C=C12)C(=O)O)CC(C)C)C(=O)OCC | C16H18BrNO4
